US05834493
5-Cyano-3-(pyridin-3-ylmethyl)-1H-indole
A mixture of compound of Description 3 [5-Bromo-3-(pyridin-3-ylmethyl)-1H-indole] (1.1 g; 0.0038 mol) and copper cyanide (0.86 g; 0.0096 mol) in dimethylformamide (35 ml) was treated at 140° C. for 8 hours. The reaction mixture was poured into an ice ammonium hydroxide solution and the product was extracted with ethyl acetate. The organic extract was dried (MgSO4) and evaporated under vacuum. After purification by Flash Chromatography on silica gel using as eluent methylene chloride/methanol (97/3), the desired compound was obtained.

reactant | 5-Bromo-3-(pyridin-3-ylmethyl)-1H-indole | BrC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C14H11BrN2
reactant | copper cyanide | 0.0096 mol, 0.86 g | [Cu](C#N)C#N
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 5-Cyano-3-(pyridin-3-ylmethyl)-1H-indole | C(#N)C=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C15H11N3
